US07875636B2
Ozone was bubbled through a mixture of (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridine-2-yl)methylene]propane-2-sulfinamide (8.10 g, 24.1 mmol) in a 1:1 mixture of dichloromethane and methanol (96 ml) at −78° C. until no starting material was observed by LC/MS. Nitrogen was bubbled through the reaction for fifteen minutes. To the solution was added in portions sodium borohydride (3.64 g, 96.0 mmol) over ten minutes. The reaction was allowed to warm to room temperature, stirred for 16 hours and then concentrated in vacuum. The resulting residue was washed with brine (2×60 ml) and extracted with ethyl acetate (2×75 ml). The organic extracts were combined, dried over Na2SO4, filtered and concentrated to give an oil. Purification by flash chromatography (SiO2, 50-100% ethyl acetate in hexanes, followed by 0-10% methanol in ethyl acetate, gradient) gave N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}-2-methylpropane-2-sulfinamide as a white solid (5.10 g, 61.6%); 1H NMR (400 MHz, CDCl3) δ 8.28 (d, J=2.8 Hz, 1H), 7.42 (d, J=8.4 Hz, 1H), 7.28 (dd, J=2.8 Hz and 8.4 Hz, 1H), 4.62-4.60 (m, 1H), 4.53-4.48 (m, 1H), 4.39 (q, J=8.0 Hz, 2H), 3.91-3.88 (m, 2H), 3.22 (m, 1H), 1.27 (s, 9H); MS (Electrospray): m/z 341.1 (M+H).

reactant | Ozone | O=[O+][O-] | O3
reactant | (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridine-2-yl)methylene]propane-2-sulfinamide | 24.1 mmol, 8.10 g | CC(C)(C)[S@@](=O)N=CC1=NC=C(C=C1)OCC(F)(F)F | C12H15F3N2O2S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium borohydride | 96.0 mmol, 3.64 g | [BH4-].[Na+]
reactant | methanol | 96 ml | CO | CH4O
product | N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}-2-methylpropane-2-sulfinamide | 5.10 g, 61.6% | OC[C@H](C1=NC=C(C=C1)OCC(F)(F)F)NS(=O)C(C)(C)C | C13H19F3N2O3S
